US09284323B2
A solution of (S)-ethyl 2-(5-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (0.215 g, 0.54 mmol) in DCM (5 mL) cooled to 0° C. was treated with methanesulfonic anhydride (0.142 g, 0.82 mmol) and diisopropylethylamine (0.28 mL, 1.6 mmol). After 1 hour, the reaction mixture was loaded directly onto silica gel and eluted via Yamazen column chromatography (0-40% EtOAc/hex) to afford (S)-ethyl 2-(5-bromo-3-methyl-1-(methylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate. 1H-NMR: 400 MHz, (CDCl3) δ: 8.25 (br d, J=8 Hz, 1H); 8.04 (s, 1H); 7.81 (d, J=7.2 Hz, 1H); 7.38 (dd, J=8, 7.2 Hz, 1H); 5.72 (s, 1H); 4.28-4.10 (m, 2H); 3.49 (s, 3H); 2.67 (s, 3H); 1.24 (s, 9H); 1.19 (t, J=7.2 Hz, 3H).

reactant | (S)-ethyl 2-(5-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.54 mmol, 0.215 g | BrC1=C2C=C(C(=C(C2=CC=C1)O)[C@@H](C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
reactant | methanesulfonic anhydride | 0.82 mmol, 0.142 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | diisopropylethylamine | 1.6 mmol, 0.28 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)-ethyl 2-(5-bromo-3-methyl-1-(methylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC1=C2C=C(C(=C(C2=CC=C1)OS(=O)(=O)C)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H25BrO6S
